US05549729
Citric acid;
Ca, K, Na and ammonium lignosulfonates, fulvic acid, ulmic acid, humic acid, Katy-J, EDTA, EDDA, EDDHA, HEDTA, CDTA, PTPA, NTA.

reactant | fulvic acid | C1(=CC=CC1=C)C(=O)O | C7H6O2
reactant | humic acid | C1C2C=CC1C(C2C(=O)O)(C(=O)O)[N+](=O)[O-] | C9H9NO6
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | EDDHA | C1=CC=C(C(=C1)C(C(=O)O)NCCNC(C2=CC=CC=C2O)C(=O)O)O | C18H20N2O6
reactant | HEDTA | C(CN(CC(=O)O)CC(=O)O)N(CCO)CC(=O)O | C10H18N2O7
reactant | CDTA | C1CCC(C(C1)N(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C14H22N2O8
product | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
